US07732456B2
(2) Preparation of 2-chloro-4-[(4-fluorophenoxy)methyl]pyridine
Triethylamine (1.2 mL, 8.4 mmols) was added to a mixture of (2-chloro-4-pyridinyl)methanol (1.0 g, 7.0 mmols), methanesulfonyl chloride (0.6 mL, 7.7 mmols) and ethyl acetate (20 mL) under cooling with ice, and stirred at room temperature for 2 hours. Filtering the reaction liquid, the filtrate was concentrated. To the resulting residue, 4-fluorophenol (0.94 g, 8.4 mmols), potassium carbonate (1.93 g, 14.0 mmols) and N,N-dimethylformamide (20 mL) were added and s at 80° C. for 20 hours. Cooling the reaction liquid to room temperature, ethyl acetate was added thereto, followed by washing with saturated aqueous sodium hydrogencarbonate solution and saturated brine and drying over anhydrous sodium sulfate. Concentrating the solvent under reduced pressure, the residue was purified on silica gel column chromatography (KP-Sil, FLASH 40+M, chloroform) to provide the title compound (845 mg, 51%).

reactant | Triethylamine | 8.4 mmols, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | (2-chloro-4-pyridinyl)methanol | 7.0 mmols, 1.0 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | methanesulfonyl chloride | 7.7 mmols, 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-fluorophenol | 8.4 mmols, 0.94 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 14.0 mmols, 1.93 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-[(4-fluorophenoxy)methyl]pyridine | 845 mg, 51% | ClC1=NC=CC(=C1)COC1=CC=C(C=C1)F | C12H9ClFNO
